US05840732
Using 13.22 g (100 mmol) of 5-methylimidazo[1,2-a]pyridine, 50 ml (100 mmol) of a 2M lithium diisopropylamide solution (produced by Aldrich Company) and 23.92 g (100 mmol) of 1-bromo-2-t-butyldimethylsiloxyethane, the same procedure as in Reference Example 3 was followed, to yield 18.81 g (64.8%, yellow oily substance) of 5-(3-t-butyldimethylsiloxypropyl)imidazo[1,2-a]pyridine.

reactant | 5-methylimidazo[1,2-a]pyridine | 100 mmol, 13.22 g | CC1=CC=CC=2N1C=CN2 | C8H8N2
reactant | lithium diisopropylamide | 2M | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-bromo-2-t-butyldimethylsiloxyethane | 100 mmol, 23.92 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
product | 5-(3-t-butyldimethylsiloxypropyl)imidazo[1,2-a]pyridine | 18.81 g, 64.8% | O([Si](C)(C)C(C)(C)C)CCCC1=CC=CC=2N1C=CN2 | C16H26N2OSi
